US07820356B2
Synthesis of Butyl Norbornene/Methyl Glycidyl Ether Norbornene Copolymer (P22)
BuNB (10.52 g, 0.07 mol), Methyl Glycidyl Ether Norbornene (AGENB, CAS 3188-75-8) (5.41 g, 0.03 mol), toluene (58.0 g) were added to a serum bottle in the drybox. The solution was stirred at 80° C. in an oil bath. To this solution were added a toluene solution (5 g) of (η6-toluene)Ni(C6F5)2 (0.69 g, 0.0014 mol). After the addition, the resulting mixture was maintained at room temperature for 4 hours. A toluene solution (87.0 g) was added to the reaction solution. The copolymer was precipitated by adding methanol drop wise into the vigorously stirred reaction mixture. The precipitated copolymer was collected by filtration and dried in an oven at 60° C. under vacuum. After drying, 12.74 g was obtained (80%). The molecular weight of the copolymer was determined by GPC in THF solvent (polystyrene standard) to be Mw=75,000 and Mn=30,000. The composition of the copolymer was determined by 1H-NMR to be (78/22) BuNB/AGENB copolymer. The refractive indices of this polymer were measured by prism coupling method and determined to be 1.5162 in TE mode and 1.5157 in TM mode at a wavelength of 633 nm. The dried copolymer was dissolved in sufficient toluene to result in a 30 wt % copolymer solution.

reactant | Methyl Glycidyl Ether Norbornene | 0.03 mol, 5.41 g | C12C=CC(CC1)C2.C(C2CO2)OC
reactant | THF | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 87.0 g | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5 g | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 58.0 g | C1(=CC=CC=C1)C | C7H8
product | Butyl Norbornene Methyl Glycidyl Ether Norbornene | C(CCC)C12C=CC(CC1)C2.C12C=CC(CC1)C2.C(C2CO2)OC | InChI=1S/C11H18.C7H10.C4H8O2/c1-2-3-6-11-7-4-10(9-11)5-8-11;1-2-7-4-3-6(1)5-7;1-5-2-4-3-6-4/h4,7,10H,2-3,5-6,8-9H2,1H3;1-2,6-7H,3-5H2;4H,2-3H2,1H3
